US05214038
N-(3-Fluoro-4-pyridinyl)-N-(5-benzyloxy-1H-indol-1-yl)-2-aminoethanol
To a solution of N-(3-fluoro-4-pyridinyl)-N-(5-benzyloxy-1H-indol-1-yl)glycine ethyl ester (18.7 g) in 100 ml of tetrahydrofuran cooled to ice bath temperature, was added lithium aluminum hydride (89.16 ml) dropwise to the cool solution. The solution was stirred for 0.5 hour, then quenched with ammonium chloride and extracted with ethyl acetate. The organic layer was washed with water and dried (sat. NaCl, MgSO4). After filtering, the solvent was evaporated to yield a solid (12.5 g) which was eluted with 50% ethyl acetate/dichloromethane on a silica gel column via HPLC. The desired fractions were evaporated to yield 9.65 g of a solid, m.p. 130°-132° C.

reactant | N-(3-fluoro-4-pyridinyl)-N-(5-benzyloxy-1H-indol-1-yl)glycine ethyl ester | 18.7 g | C(C)OC(CN(N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C1=C(C=NC=C1)F)=O | C24H22FN3O3
reactant | lithium aluminum hydride | 89.16 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(3-Fluoro-4-pyridinyl)-N-(5-benzyloxy-1H-indol-1-yl)-2-aminoethanol | 12.5 g | FC=1C=NC=CC1N(CCO)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1 | C22H20FN3O2
